US09290451B2
c) Methyl 2-(6-(2,4-dichlorophenylamino)-5-methylpicolinamido)-2-methylpropanoate
The title compound was synthesized in analogy to Example 4 b, using 6-(2,4-dichloro-phenylamino)-5-methyl-pyridine-2-carboxylic acid and 2-methyl-alanine methyl ester as starting materials, MS (EI): m/e 396.0 [M+H]+.

reactant | 6-(2,4-dichloro-phenylamino)-5-methyl-pyridine-2-carboxylic acid | ClC1=C(C=CC(=C1)Cl)NC1=C(C=CC(=N1)C(=O)O)C | C13H10Cl2N2O2
reactant | 2-methyl-alanine methyl ester | COC(C(N)(C)C)=O | C5H11NO2
product | Methyl 2-(6-(2,4-dichlorophenylamino)-5-methylpicolinamido)-2-methylpropanoate | ClC1=C(C=CC(=C1)Cl)NC1=C(C=CC(=N1)C(=O)NC(C(=O)OC)(C)C)C | C18H19Cl2N3O3
